US07618960B2
A solution of 4 N hydrogen chloride in ethyl acetate (10 mL) was added to a solution of tert-butyl [(1R,2R)-1-(3,4-difluorophenyl)-2-hydroxypropyl]carbamate (960 mg) in methanol (10 mL) at room temperature, and the reaction solution was stirred at room temperature for 30 minutes. The reaction solution was concentrated under reduced pressure to obtain (1R,2R)-1-amino-1-(3,4-difluorophenyl)propan-2-ol hydrochloride (747 mg). DIEA (1.59 mL), WSC (880 mg), and HOBT (620 mg) were added to a solution of (E)-5-chloro-2-{1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene]valeric acid trifluoroacetate (1.00 g) and (1R,2R)-1-amino-1-(3,4-difluorophenyl)propan-2-ol hydrochloride (612 mg) in DMF (20 mL) at room temperature, and the reaction solution was stirred at room temperature for one hour. Ethyl acetate was added to the reaction solution, which was then sequentially washed with saturated sodium bicarbonate water, water, a saturated ammonium chloride solution, and brine. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The resulting solid was washed with heptane to obtain (E)-5-chloro-2-{1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene}valeric acid [(1R,2R)-1-(3,4-difluorophenyl)-2-hydroxypropyl]amide (977 mg). (E)-5-chloro-2-{1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene}valeric acid [(1R,2R)-1-(3,4-difluorophenyl)-2-hydroxypropyl]amide (977 mg) was dissolved in DMF (25 mL). 60% sodium hydride (95 mg) was added to the reaction solution at room temperature, and the reaction solution was stirred at room temperature for 30 minutes. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate-methanol system), solidified with ethyl acetate and heptane, and separated by filtration to obtain 740 mg of the title compound. The property values of the compound are as follows.

reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | tert-butyl [(1R,2R)-1-(3,4-difluorophenyl)-2-hydroxypropyl]carbamate | 960 mg | FC=1C=C(C=CC1F)[C@H]([C@@H](C)O)NC(OC(C)(C)C)=O | C14H19F2NO3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | (1R,2R)-1-amino-1-(3,4-difluorophenyl)propan-2-ol hydrochloride | 747 mg | Cl.N[C@@H]([C@@H](C)O)C1=CC(=C(C=C1)F)F | InChI=1S/C9H11F2NO.ClH/c1-5(13)9(12)6-2-3-7(10)8(11)4-6;/h2-5,9,13H,12H2,1H3;1H/t5-,9+;/m1./s1
